US07009059B2
The oxidation of 5-bromo-2-allyloxybenzaldoxime using sodium hypochlorite solution to give 5-bromo-2-allyloxybenzonitrile oxide and the subsequent 1,3-dipolar cycloaddition were carried out in a static micromixer (Technical University of Ilmenau, Faculty of Machine Construction, Dr. Norbert Schwesinger, Postfach 100565, D-98684 Ilmenau) having a physical size of 40 mm×25 mm×1 mm with a total of 11 mixing stages each with a volume of 0.125 μl. The total pressure loss was about 1000 Pa.

reactant | 5-bromo-2-allyloxybenzaldoxime | BrC=1C=CC(=C(C=NO)C1)OCC=C | C10H10BrNO2
reactant | sodium hypochlorite | Cl[O-].[Na+]
product | 5-bromo-2-allyloxybenzonitrile oxide | BrC=1C=CC(=C(C#[N+][O-])C1)OCC=C | C10H8BrNO2
